US04612317
Methyl (1RS, 3SR)-trans-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 13 by using (1RS, 3SR)-trans-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline (1.08 g), triethylamine (1.01 g), CS2 (760 mg), methyl iodide (1.42 g) and dimethylsulfoxide (10 ml), there is prepared the title compound (1.22 g, 79.7%) as colorless needles, m.p. 153°-156° C. (recrystallized from aqueous methanol). NMR (CDCl3, δ): 2.60 (d, J=7.0 Hz, 3H, C1 --CH3), 2.68 (s, 3H, CSSCH3), Mass m/e: 306 (M+), 258 (M+ --CH3SH).

reactant | (1RS, 3SR)-trans-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline | 1.08 g | OC[C@@H]1N[C@H](C=2NC3=CC=CC=C3C2C1)C | C13H16N2O
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | CS2 | 760 mg | C(=S)=S | CS2
reactant | methyl iodide | 1.42 g | CI | CH3I
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | Methyl (1RS, 3SR)-trans-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | OC[C@@H]1N([C@H](C=2NC3=CC=CC=C3C2C1)C)C(=S)SC | C15H18N2OS2
